US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) and 3-carboxyphenylboronic acid (145.6 mg, 0.88 mmol, 2.00 equiv) as reactants. Purification via silica gel column (DCM/MeOH (20:1)) yielded 141.8 mg (78%) of methyl 3-(3-carboxyphenyl)-2-phenylquinoxaline-6-carboxylate as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 3-carboxyphenylboronic acid | 0.88 mmol, 145.6 mg, 2.00 equiv | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
product | methyl 3-(3-carboxyphenyl)-2-phenylquinoxaline-6-carboxylate | 141.8 mg, 78% | C(=O)(O)C=1C=C(C=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C23H16N2O4
